US08138342B2
8-(1H-Indole-5-carbonyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
To a mixture of indole-5-carboxylic acid (300 mg, 1.86 mmol) and HOBT (278 mg, 2.05 mmol) in dry DMF (10 mL) was added EDAC (464 mg, 2.42 mmol). The resulting mixture was stirred for 10 min followed by addition of a mixture of TEA (0.78 ml, 5.58 mmol) and 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (473 mg, 2.04 mmol). The reaction mixture was stirred for an additional 16 hrs. To the reaction mixture was added water (25 ml) and the resulting precipitate was filtered and washed with water. The resulting solid was recrystalised from a mixture of EtOH-water (4:1, 10 mL) the precipitate was filtered off, washed with water and dried in vacuo at 40° C. affording 472 mg (67%) of the title compound as a solid.

reactant | indole-5-carboxylic acid | 1.86 mmol, 300 mg | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | HOBT | 2.05 mmol, 278 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 2.42 mmol, 464 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 2.04 mmol, 473 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | 8-(1H-Indole-5-carbonyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 472 mg, 67% | N1C=CC2=CC(=CC=C12)C(=O)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C22H22N4O2
